US04208531
Methyl 2,3-dideoxy-α-D-erythro-hexopyranoside (6 g, 37 mmol) in dry pyridine (50 ml) was treated with toluene-p-sulphonyl chloride (15.2 g, 80 mmol) at 0° with stirring. The reaction mixture was stored at 22° for 12 h, and after the addition of water (1 ml) it was concentrated. The syrupy residue was poured into ice-water, the oil which separated was extracted with CHCl3, and the extracts were washed with water, dried and evaporated. The solid thus obtained (12 g, 70%) was recrystallized from methanol to give pure methyl 2,3-dideoxy-4,6-di-O-toluene-p-sulphonyl-α-D-erythro-hexopyranoside. M.p.: 110°-111.5°. [α]D22 +80.8° (c 1, chloroform).

reactant | Methyl 2,3-dideoxy-α-D-erythro-hexopyranoside | 37 mmol, 6 g | O([C@@H]1CC[C@H](O)[C@H](O1)CO)C | C7H14O4
reactant | toluene-p-sulphonyl chloride | 80 mmol, 15.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 1 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2,3-dideoxy-4,6-di-O-toluene-p-sulphonyl-α-D-erythro-hexopyranoside | C1(=CC=C(C=C1)S(=O)(=O)O[C@H]1CC[C@@H](OC)O[C@@H]1COS(=O)(=O)C1=CC=C(C=C1)C)C | C21H26O8S2
